US08563746B2
Step B 4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)biphenyl-2-ol
Potassium acetate (366 mg, 3.73 mmol) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium II DCM adduct (25.4 mg, 31 μmol) were added to a solution of 4′-bromobiphenyl-2-ol (310 mg, 1.24 mmol), and bis(pinacolato)diboron (348 mg, 1.37 mmol) in DME (3 mL). The reaction was heated at 150° C. under microwave irradiation for 10 min. Reaction mixture was filtered through a pad of Celite™ and purified by chromatography over silica eluting with 0-50% EtOAc/hexane to furnish the title compound as a white solid.

reactant | Potassium acetate | 3.73 mmol, 366 mg | C(C)(=O)[O-].[K+]
reactant | 4′-bromobiphenyl-2-ol | 1.24 mmol, 310 mg | BrC1=CC=C(C=C1)C=1C(=CC=CC1)O | C12H9BrO
reactant | bis(pinacolato)diboron | 1.37 mmol, 348 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | DME | 3 mL | COCCOC | C4H10O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 31 μmol, 25.4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)biphenyl-2-ol | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C=1C(=CC=CC1)O)C | C18H21BO3
